US08492548B2
(R)-Quinuclidin-3-yl 2-(3-fluorophenyl)-2-(3,4,5-trifluorophenylamino)acetate (I43) (85 mg, 0.21 mmol) and 2-chloro-1-(thiophen-2-yl)ethanone (35.1 mg, 0.22 mmol) were dissolved in acetonitrile (5 ml) and stirred at room temperature for 48 hours. The solvent was evaporated, and the resulting crude compound was purified by flash chromatography (DCM/MeOH=9/1) to obtain (3R)-3-(2-(3-fluorophenyl)-2-(3,4,5-trifluorophenylamino)acetoxy)-1-(2-oxo-2-(thiophen-2-yl)ethyl)-1-azoniabicyclo[2.2.2]octane chloride (70 mg; 59% yield).

reactant | (R)-Quinuclidin-3-yl 2-(3-fluorophenyl)-2-(3,4,5-trifluorophenylamino)acetate | 0.21 mmol, 85 mg | FC=1C=C(C=CC1)C(C(=O)O[C@H]1CN2CCC1CC2)NC2=CC(=C(C(=C2)F)F)F | C21H20F4N2O2
reactant | 2-chloro-1-(thiophen-2-yl)ethanone | 0.22 mmol, 35.1 mg | ClCC(=O)C=1SC=CC1 | C6H5ClOS
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | (3R)-3-(2-(3-fluorophenyl)-2-(3,4,5-trifluorophenylamino)acetoxy)-1-(2-oxo-2-(thiophen-2-yl)ethyl)-1-azoniabicyclo[2.2.2]octane chloride | 70 mg, 59% yield | [Cl-].FC=1C=C(C=CC1)C(C(=O)O[C@H]1C[N+]2(CCC1CC2)CC(C=2SC=CC2)=O)NC2=CC(=C(C(=C2)F)F)F | InChI=1S/C27H25F4N2O3S.ClH/c28-18-4-1-3-17(11-18)26(32-19-12-20(29)25(31)21(30)13-19)27(35)36-23-15-33(8-6-16(23)7-9-33)14-22(34)24-5-2-10-37-24;/h1-5,10-13,16,23,26,32H,6-9,14-15H2;1H/q+1;/p-1/t16?,23-,26?,33?;/m0./s1
